US06894061B2
2,4-Dimethoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzen sulfonamide
A stirred solution of 1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethylamine (0.71 g, 2.84 mmol) in dichloromethane (5 mL) was treated with 2,4-dimethoxybenzenesulfonyl chloride (0.71 g, 3.0 mmol), and N,N-diisopropylethylamine (0.77 g, 6.0 mmol). The reaction was stirred at room temperature for twelve hours, and the solvent was evaporated in vacuo to a crude oil. The crude oil was purified by preparative liquid chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a gradient of between 5% and 50% methyl tert-butyl ether in hexane at a flow rate of 40 mL/min to afford, after evaporation of the solvent, a colorless oil. Crystallization of the colorless oil from ethyl acetate-hexane yielded the title compound (0.93 g, 2.07 mmol, 73%) as a homogeneous, colorless, crystalline solid, m.p. 192-194° C.;

reactant | 1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethylamine | 2.84 mmol, 0.71 g | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)F)C(C)N | C14H12F3N
reactant | 2,4-dimethoxybenzenesulfonyl chloride | 3.0 mmol, 0.71 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | N,N-diisopropylethylamine | 6.0 mmol, 0.77 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,4-Dimethoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzen sulfonamide | 2.07 mmol, 0.93 g, 73% | COC1=C(C=CC(=C1)OC)S(=O)(=O)NC(C)C1=C(C=CC(=C1)F)C1=C(C=C(C=C1)F)F | C22H20F3NO4S
